US05470870
Step c: DL-4,6-Dibromotryptophan ethyl ester
Dissolve ethyl 2-(hydroxyimino)-3-(4,6-dibromo-3-indolyl)propanoate (1.47 g, 3.65 mmol) in acetic acid (200 mL) and add activated zinc dust (1.25 g, 19.2 mmol). Stir at room temperature for 72 hours. Evaporate the acetic acid in vacuo and take up in ethyl acetate (200 mL). Treat with saturated sodium hydrogen carbonate (500 mL). Filter the resulting white precipitate and separate the organic phase. Wash with saturated sodium hydrogen carbonate (100 mL) and brine (100 mL). Dry (MgSO4) and evaporate the solvent in vacuo to give the title compound.

reactant | ethyl 2-(hydroxyimino)-3-(4,6-dibromo-3-indolyl)propanoate | 3.65 mmol, 1.47 g | ON=C(C(=O)OCC)CC1=CNC2=CC(=CC(=C12)Br)Br | C13H12Br2N2O3
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 19.2 mmol, 1.25 g | [Zn] | Zn
product | 4,6-Dibromotryptophan ethyl ester | C(C)OC([C@@H](N)CC1=CNC2=CC(=CC(=C12)Br)Br)=O | C13H14Br2N2O2
